US08937071B2
To a solution of (4-bromo-2,3-difluorophenyl)methanol (500 mg, 2.242 mmol) in DCM (10 mL) stirred under N2 at 0° C. was added PBr3 (0.634 mL, 6.73 mmol) in one charge. The reaction mixture was stirred at 10° C. for 2 h. Then the solution was concentrated and distributed between DCM and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=10:1, Rf 0.6) to yield light yellow oil of 1-bromo-4-(bromomethyl)-2,3-difluorobenzene (330 mg, 1.154 mmol, 51.5% yield): 1H NMR (400 MHz, CDCl3) δ 7.30 (ddd, J=2.0, 6.0, 8.2 Hz, 1H), 7.11-7.03 (m, 1H), 4.46 (s, 2H).

reactant | (4-bromo-2,3-difluorophenyl)methanol | 2.242 mmol, 500 mg | BrC1=C(C(=C(C=C1)CO)F)F | C7H5BrF2O
reactant | PBr3 | 6.73 mmol, 0.634 mL | P(Br)(Br)Br | Br3P
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-4-(bromomethyl)-2,3-difluorobenzene | 1.154 mmol, 330 mg, 51.5% yield | BrC1=C(C(=C(C=C1)CBr)F)F | C7H4Br2F2
